US06251897B1
(1) Synthesis of 3-(3,4-dimethoxyphenyl)-3-hydroxypropiononitrile
A solution of diisopropylamine (0.67 g, 6.62 mM) in dried tetrahydrofuran (5 ml) was cooled to −78° C. A hexane solution of n-butyllithium (6.62 mM) was dropped into this solution, then this was stirred at that temperature for 30 minutes. Next, acetonitrile (0.27 g, 6.62 mM) was dropped into this solution and the result stirred for a further 30 minutes, then a solution of 3,4-dimethoxybenzaldehyde (1.00 g, 6.02 mM) in dried tetrahydrofuran (5 ml) was added and the mixture stirred at that temperature for 4 hours. An aqueous ammonium chloride was poured into the obtained solution, which was warmed to room temperature and extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, then the solvent was removed in vacuo to obtain a crude product (1.25 g) of 3-(3,4-dimethoxyphenyl)-3-hydroxypropiononitrile as a yellow oil. The crude product thus obtained had sufficient purity without purification, therefore could be used for the next reaction as it was.

reactant | diisopropylamine | 6.62 mM, 0.67 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 6.62 mM | C(CCC)[Li]
reactant | 3,4-dimethoxybenzaldehyde | 6.02 mM, 1.00 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 6.62 mM, 0.27 g | C(C)#N | C2H3N
solvent | hexane | CCCCCC | C6H14
product | 3-(3,4-dimethoxyphenyl)-3-hydroxypropiononitrile | COC=1C=C(C=CC1OC)C(CC#N)O | C11H13NO3
